US04080319
1,2,3,4-butane tetracarboxylic acid;
1,2,3,4-cyclobutane tetracarboxylic acid; 1,2,3,4-cyclopentane tetracarboxylic acid; dicyclo-(2,2,2)-octane-2,3,5,6-tetracarboxylic acid; 7,8-dichlorodicyclo-(2,2,2)-octane-2,3,5,6-tetracarboxylic acid; 7,8-diphenyldicyclo-(2,2,2)-octane-2,3,5,6-tetracarboxylic acid; dicyclo-(2,2,2)-octene-(7)-2,3,5,6-tetracarboxylic acid;

reactant | 1,2,3,4-cyclobutane tetracarboxylic acid | C1(C(C(C1C(=O)O)C(=O)O)C(=O)O)C(=O)O | C8H8O8
reactant | 1,2,3,4-cyclopentane tetracarboxylic acid | C1(C(C(C(C1)C(=O)O)C(=O)O)C(=O)O)C(=O)O | C9H10O8
product | 1,2,3,4-butane tetracarboxylic acid | C(C(C(CC(=O)O)C(=O)O)C(=O)O)C(=O)O | C8H10O8
